US07135466B2
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline
4-Chloro-6,7-dimethoxyquinazoline (10.23 g) and 2-fluoro-4-nitrophenol (14.37 g) were suspended in monochlorobenzene (100 ml), and the suspension was heated under reflux overnight. The solvent was removed by distillation under the reduced pressure, and the residue was washed with toluene, was filtered, and was dried. The crystal thus obtained was then suspended in an aqueous sodium hydroxide solution, and the suspension was filtered, followed by drying to give 4-(3-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline (14.2 g, yield 90%). 4-(2-Fluoro-4-nitrophenoxy)-6,7-dimethoxy-quinoline (4.57 g) was dissolved in ethyl acetate/N,N-dimethylformamide/triethylamine (100 ml/100 ml/20 ml) to prepare a solution. Palladium hydroxide (1.2 g) was added to the solution, and the mixture was stirred in a hydrogen atmosphere at room temperature overnight. After filtration through Celite, the solvent was removed by distillation under the reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure to quantitatively give 4.27 g of the title compound.

reactant | 4-(2-Fluoro-4-nitrophenoxy)-6,7-dimethoxy-quinoline | 4.57 g | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C17H13FN2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate N,N-dimethylformamide triethylamine | 100 ml | C(C)(=O)OCC.CN(C=O)C.C(C)N(CC)CC
catalyst | Palladium hydroxide | 1.2 g | [OH-].[Pd+2].[OH-]
product | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoroaniline | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(N)C=C1)F | C17H15FN2O3
